US06544985B2
[2-Amino-4-methyl-5-(methyl-propyl-amino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [4-methyl-5-(methyl-propyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C21) (3.59 g, 11.1 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a purple solid (3.23 g, 99%).

reactant | [4-methyl-5-(methyl-propyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | 11.1 mmol, 3.59 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C)[N+](=O)[O-])=O | C16H25N3O4
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-4-methyl-5-(methyl-propyl-amino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C)N)=O | C16H27N3O2
